US04001308
One (1.0) g of cis-1,4-dibromocyclopent-2-ene, 3.5 g of potassium acetate, 0.7 g of cetyltrimethylammonium chloride, 5 ml of carbon tetrachloride, and 2 ml of water were used in the manner similar to the Example 1, at 42° C. for 6 hours. After addition of 30 ml of ether, the organic phase was dried over sodium sulfate, and the organic solvent was distilled off under a reduced pressure similarly to Example 1. Further subjecting the residual system to a reduced pressure distillation, 0.7 g of cis-1,4-diacetoxycyclopent-2-ene boiling at 60°-61° C./0.03 mmHg was obtained. The yield was 77%.

reactant | cis-1,4-dibromocyclopent-2-ene | Br[C@@H]1C=C[C@@H](C1)Br | C5H6Br2
reactant | potassium acetate | 3.5 g | C(C)(=O)[O-].[K+]
reactant | carbon tetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | water | 2 ml | O | H2O
reactant | ether | 30 ml | CCOCC | C4H10O
catalyst | cetyltrimethylammonium chloride | 0.7 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
product | cis-1,4-diacetoxycyclopent-2-ene | 0.7 g, yield was 77% | C(C)(=O)O[C@@H]1C=C[C@@H](C1)OC(C)=O | C9H12O4
